US07173139B2
(R)-3-(4-Pyrolidin-1-yl-phenyl)-butyraldehyde (Table 1, entry 2):
A solution (R)-3-(4-pyrolidin-1-yl-phenyl)-butyraldehyde (201 mg, 0.923 mmol, 1.00 equiv) in CH2Cl2 (0.5 mL) was added to a stirring solution of sodium borohydride (37.1 mg, 1.00 mmol, 1.08 equiv) in ethanol (3.0 mL). After 5 min, the reaction was diluted with saturated aqueous NaHCO3 (50 mL) and CH2Cl2 (30 mL). The organic layer was separated and washed with saturated solutions of NaHCO3 and NaCl. The resulting solution was then dried over Na2SO4 and concentrated in vacuo. The residual oil (201 mg, 0.915 mmol, 1.00 equiv) was exposed to tert-butyldimethylsilyl chloride (276 mg, 1.83 mmol, 2.00 equiv), triethylamine (0.28 mL, 2.0 mmol, 2.2 equiv), and DMAP (10 mg) in CH2Cl2 (1.5 mL). After one hour, the reaction mixture was subjected directly to silica gel chromatography. Elution with 10% Et2O in hexanes followed by concentration of two fractions in vacuo afforded 35 mg of S3 as a colorless oil (0.10 mmol, 11% yield) that was spectroscopically identical in all respects to (S)-4-benzoyloxy-3-(4-pyrolidin-1-yl-phenyl)-butyraldehyde. [α]D (reference)=−28.7 (c=1.20, CHCl3); [α]D (observed)=−34.8 (c=0.994, CHCl3).

reactant | (S)-4-benzoyloxy-3-(4-pyrolidin-1-yl-phenyl)-butyraldehyde | C(C1=CC=CC=C1)(=O)OC[C@@H](CC=O)C1=CC=C(C=C1)N1CCCC1 | C21H23NO3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (R)-3-(4-Pyrolidin-1-yl-phenyl)-butyraldehyde | N1(CCCC1)C1=CC=C(C=C1)[C@@H](CC=O)C | C14H19NO
